US04022778
Ethyl 1-(2-aminoethyl)-3-phenyl-5-chloroindole-2-carboxylate
A suspension of ethyl 1-cyanomethyl-3-phenyl-5-chloroindole-2-carboxylate (12 grams, 0.035 mole), and 0.15 grams of platinum dioxide in 200 ml absolute ethanol containing 45 ml of concentrated hydrochloric acid is shaken with hydrogen at 45 psi and 45° C, in a standard Parr apparatus. Hydrogenation is stopped after 5.5 lbs. of pressure drop is observed. After removal of catalyst by filtration the filtrate is taken to dryness under reduced pressure. The solid is stirred with water and refiltered and dried. This affords 13 grams of the hydrochloride, m.p. 196°-98° C. A sample is crystallized from ethanol, washed with acetone and dried. This material melts at 205°-206° C.

reactant | ethyl 1-cyanomethyl-3-phenyl-5-chloroindole-2-carboxylate | 0.035 mole, 12 grams | C(#N)CN1C(=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)C(=O)OCC | C19H15ClN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 0.15 grams | [Pt](=O)=O
product | Ethyl 1-(2-aminoethyl)-3-phenyl-5-chloroindole-2-carboxylate | NCCN1C(=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)C(=O)OCC | C19H19ClN2O2
